US05306617
(1) Synthesis of 6-tert-butoxycarbonylaminohexanol
Four grams of 6-amino-1-hexanol (34.1 mmols) was dissolved in 30 ml of chloroform and ice-cooled. Seven grams of 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile (BOC-ON) dissolved in 20 ml of chloroform was added, and the mixture was ice-cooled and reacted for 16 hours. Chloroform was evaporated, and the residue was separated and purified by silica gel column chromatography to obtain 6.59 g of the captioned compound. Yield: 89 %.

reactant | 6-amino-1-hexanol | 34.1 mmols, Four grams | NCCCCCCO | C6H15NO
reactant | 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile | Seven grams | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-tert-butoxycarbonylaminohexanol | 6.59 g, Yield: 89 % | C(C)(C)(C)OC(=O)NCCCCCCO | C11H23NO3
